US04556660
A mixture of 3.4 parts of 6-chloro-3-nitro-2-pyridinamine, 7.4 parts of N-[1-(2-aminoethyl)-4-piperidinyl]-1-[(4-fluorophenyl)methyl]1H-benzimidazol-2-amine and 10 parts of 1-methyl-2-pyrrolidinone was stirred and heated for 2 hours at 150° C. The reaction mixture was cooled and taken up in methanol saturated with ammonia. The whole was evaporated and water was added to the residue. The product was extracted three times with 4-methyl-2-pentanone. The combined extracts were dried, filtered and evaporated in vacuo. The residue was purified by column-chromatography over silica gel using a mixture of trichloromethane and methanol (95:5 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from 4-methyl-2-pentanone, yielding 5 parts (50%) of N6 -[2-[4-[[1-[(4-fluorophenyl)methyl]1H-benzimidazol-2-yl]amino]-1-piperidinyl]ethyl]-3-nitro-2,6-pyridinediamine; mp. 205.7° C. (compound 63).

reactant | 6-chloro-3-nitro-2-pyridinamine | ClC1=CC=C(C(=N1)N)[N+](=O)[O-] | C5H4ClN3O2
reactant | N-[1-(2-aminoethyl)-4-piperidinyl]-1-[(4-fluorophenyl)methyl]1H-benzimidazol-2-amine | NCCN1CCC(CC1)NC1=NC2=C(N1CC1=CC=C(C=C1)F)C=CC=C2 | C21H26FN5
reactant | 1-methyl-2-pyrrolidinone | CN1C(CCC1)=O | C5H9NO
reactant | ammonia | N | H3N
solvent | methanol | CO | CH4O
product | N6 -[2-[4-[[1-[(4-fluorophenyl)methyl]1H-benzimidazol-2-yl]amino]-1-piperidinyl]ethyl]-3-nitro-2,6-pyridinediamine | 50% | FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)NC2CCN(CC2)CCNC2=CC=C(C(=N2)N)[N+](=O)[O-] | C26H29FN8O2
